US06194410B1
A suspension of 3.8 g (10.8 mmol) of 5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-ol in 20 l of POCl3 was heated at reflux for 1 hr. The reaction solution was cooled to RT and evaporated. The residue was treated with 100 ml of ice-water and the pH value of the solution was adjusted to 8 with sat. NaHCO3 solution. The aqueous phase was extracted three times with CH2Cl2, and the organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/AcOEt 25:1) of the residue yielded 3.8 g (95%) of 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidine as pale yellow crystals, m.p. 197-198°.

reactant | 5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidin-7-ol | 10.8 mmol, 3.8 g | CC1=NC=2N(C(=C1)O)N=C(C2S(=O)(=O)C2=CC=C(C=C2)C)SC | C15H15N3O3S2
reactant | POCl3 | 20 l | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-5-methyl-2-methylsulphanyl-3-(toluene-4-sulphonyl)-pyrazolo[1,5-a]pyrimidine | 3.8 g, 95% | ClC1=CC(=NC=2N1N=C(C2S(=O)(=O)C2=CC=C(C=C2)C)SC)C | C15H14ClN3O2S2
